US07217730B2
3-Amino-5-bromo-2-methylbenzoic acid benzyl ester
A 1000 mL RBF equipped with an overhead stirrer was charged with 5-bromo-2-methyl-3-nitro benzoic acid benzyl ester (75.0 g, 0.214 mol) and water (200 mL). While stirring vigorously, Fe powder (−325 mesh, 47.81 g, 0.857 mol) and NH4Cl (13.88 g, 0.257 mol) were added. The mixture was heated to reflux for 4.5 hours. The reaction mixture was then allowed to cool to room temperature, diluted with EtOAc and filtered through a pad of Celite. The filtrate was washed with water (2×), saturated NaCl (1×), dried (MgSO4), and concentrated. Upon trituration with hexanes, 63.2 g (92.1%) of an off-white powder was obtained. 1H NMR (CDCl3) δ 7.38 (m, 6H), 6.90 (s, 1H), 5.31 (s, 2H), 3.76 (br s, 2H), 2.25 (s, 3H).

reactant | 5-bromo-2-methyl-3-nitro benzoic acid benzyl ester | 0.214 mol, 75.0 g | C(C1=CC=CC=C1)OC(C1=C(C(=CC(=C1)Br)[N+](=O)[O-])C)=O | C15H12BrNO4
reactant | water | 200 mL | O | H2O
reactant | NH4Cl | 0.257 mol, 13.88 g | [NH4+].[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Fe | 0.857 mol, 47.81 g | [Fe] | Fe
product | 3-Amino-5-bromo-2-methylbenzoic acid benzyl ester | 63.2 g, 92.1% | C(C1=CC=CC=C1)OC(C1=C(C(=CC(=C1)Br)N)C)=O | C15H14BrNO2
